** sch_path: /foss/designs/AUS-NZ-integration/team_src/xschem/DIV2_QUAD_tb.sch
**.subckt DIV2_QUAD_tb
X1 CK CKB IBIAS I_P I_N Q_P Q_N VDD 0 DIV2_QUAD_v1
V_VDD VDD 0 3.3
.save i(v_vdd)
V_CK CK 0 PULSE(0 3.3 0 5p 5p 95p 200p)
V_CKB CKB 0 PULSE(3.3 0 0 5p 5p 95p 200p)
I_BIAS VDD IBIAS 240u
Cpad_I_P I_P 0 300f
Rterm_I_P I_P 0 50
Cpad_I_N I_N 0 300f
Rterm_I_N I_N 0 50
Cpad_Q_P Q_P 0 300f
Rterm_Q_P Q_P 0 50
Cpad_Q_N Q_N 0 300f
Rterm_Q_N Q_N 0 50
**** begin user architecture code


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.include /foss/designs/_div2_work/resim/ib_conv_v1_pex.spice
.include /foss/designs/AUS-NZ-integration/team_src/magic/ib_conv_v1_golden.spice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.save all i(V_VDD)


**** end user architecture code
**.ends

* expanding   symbol:  DIV2_QUAD_v1.sym # of pins=9
** sym_path: /foss/designs/AUS-NZ-integration/team_src/xschem/DIV2_QUAD_v1.sym
** sch_path: /foss/designs/AUS-NZ-integration/team_src/xschem/DIV2_QUAD_v1.sch
.subckt DIV2_QUAD_v1 CK CKB IBIAS I_P I_N Q_P Q_N VDD VSS
*.ipin CK
*.ipin CKB
*.ipin IBIAS
*.iopin VDD
*.iopin VSS
*.opin I_P
*.opin I_N
*.opin Q_P
*.opin Q_N
XMA1 OIB OQ nTA VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMA2 OI OQB nTA VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMA3 OIB OI nLA VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMA4 OI OIB nLA VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMA5 nTA CK TAILA VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMA6 nLA CKB TAILA VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMB1 OQB OIB nTB VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMB2 OQ OI nTB VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMB3 OQB OQ nLB VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMB4 OQ OQB nLB VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMB5 nTB CKB TAILB VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMB6 nLB CK TAILB VSS nfet_03v3 L=0.3u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
RA1 VDD OIB 300
RA2 VDD OI 300
RB1 VDD OQB 300
RB2 VDD OQ 300
XM_BREF IBIAS IBIAS VSS VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM_TAILA TAILA IBIAS VSS VSS nfet_03v3 L=1u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM_TAILB TAILB IBIAS VSS VSS nfet_03v3 L=1u W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
* four converters as ib_conv_v1; each VSS return through a 0 V ammeter
X_CONV_IP IBIAS OIB OI I_P VDD VSS_IP ib_conv_v1_pex
V_VSS_IP VSS_IP VSS 0
X_CONV_IN IBIAS OI OIB I_N VDD VSS_IN ib_conv_v1
V_VSS_IN VSS_IN VSS 0
X_CONV_QP IBIAS OQB OQ Q_P VDD VSS_QP ib_conv_v1
V_VSS_QP VSS_QP VSS 0
X_CONV_QN IBIAS OQ OQB Q_N VDD VSS_QN ib_conv_v1
V_VSS_QN VSS_QN VSS 0
.ends

.save all
.control
set num_threads=2
tran 0.2p 20n uic
wrdata /foss/designs/_div2_work/resim/vdd_quad.dat v(I_P) v(I_N) v(Q_P) v(Q_N) v(x1.x_conv_ip.a_8030_n1600.t1) v(x1.x_conv_qp.s3)
meas tran i_vdd_avg AVG i(v_vdd) from=16n to=20n
meas tran i_ip_avg AVG i(v.x1.v_vss_ip) from=16n to=20n
meas tran i_in_avg AVG i(v.x1.v_vss_in) from=16n to=20n
meas tran i_qp_avg AVG i(v.x1.v_vss_qp) from=16n to=20n
meas tran i_qn_avg AVG i(v.x1.v_vss_qn) from=16n to=20n
wrdata /foss/designs/_div2_work/resim/vdddrop.dat v(VDD) v(x1.x_conv_ip.vdd.t0) v(x1.x_conv_ip.vdd.t1) v(x1.x_conv_ip.vdd.t2) v(x1.x_conv_ip.vdd.t3) v(x1.x_conv_ip.vdd.t4) v(x1.x_conv_ip.vdd.t5) v(x1.x_conv_ip.vdd.t6) v(x1.x_conv_ip.vdd.t7) v(x1.x_conv_ip.vdd.t8) v(x1.x_conv_ip.vdd.t9)
.endc
.end
